US07858640B2
[8-chloro-3-(4-chlorophenylsulfanyl)-2-methyl-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of (3-amino-4-chlorophenoxy)acetic acid methyl ester (2.1 g), 2-(4-chlorophenylsulfanyl)-3-oxobutyric acid methyl ester (2.5 g), polyphosphoric acid (10 g) and dioxane (30 mL) was heated at 130° C. for 2 days. The mixture was cooled to room temperature and the solvent removed under reduced pressure. The residue was diluted with water and the resulting precipitate collected by filtration, washed with water and dichloromethane and dried to afford title compound, 1.6 g.

reactant | (3-amino-4-chlorophenoxy)acetic acid methyl ester | 2.1 g | COC(COC1=CC(=C(C=C1)Cl)N)=O | C9H10ClNO3
reactant | 2-(4-chlorophenylsulfanyl)-3-oxobutyric acid methyl ester | 2.5 g | COC(C(C(C)=O)SC1=CC=C(C=C1)Cl)=O | C11H11ClO3S
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | [8-chloro-3-(4-chlorophenylsulfanyl)-2-methyl-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(C(=C(NC2=C(C=C1)Cl)C)SC1=CC=C(C=C1)Cl)=O)=O | C19H15Cl2NO4S
